US04826834
7-Ethoxycarbonylmethylthio-5-methyl-[1,2,4]triazolo[1,5-a]pyrimidine.
Ethyl thioglycollate, 1.2 g, is dissolved in 30 ml of dry ethanol, to which 400 mg of sodium hydride (60% in an oil) is added under cooling with ice water and stirred for 10 minutes. Then 1.7 g of 7-chloro-5-methyl-[1,2,4]triazolo[1,5-a]pyrimidine and 10 ml of dry dichloromethane are added and stirred for 16 hours. To the reaction mixture, water and dichloromethane are added and the organic layer is separated. The separated organic layer is washed with saline and dried over anhydrous potassium carbonate. The solvent is evaporated under reduced pressure and the residue is purified by column chromatography [on 40 g of silica gel, developed and eluted with ethyl acetate] to give 2.2 g of the desired compound as a colorless powder.

reactant | Ethyl thioglycollate | CCOC(=O)CS | C4H8O2S
reactant | sodium hydride | 400 mg | [H-].[Na+]
reactant | 7-chloro-5-methyl-[1,2,4]triazolo[1,5-a]pyrimidine | 1.7 g | ClC1=CC(=NC=2N1N=CN2)C | C6H5ClN4
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 7-Ethoxycarbonylmethylthio-5-methyl-[1,2,4]triazolo[1,5-a]pyrimidine | 2.2 g | C(C)OC(=O)CSC1=CC(=NC=2N1N=CN2)C | C10H12N4O2S
